US06528543B1
A solution of 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)propionic acid (500 mg, 1.89 mmol) in methanol (8 mL) was treated slowly with 2 drops of concentrated sulfuric acid. The resulting reaction mixture was heated under reflux for 15 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo. The orange residue was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to provide pure 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)propionic acid methyl ester (481 mg, 91%) as a yellow-orange oil which was used without further purification: EI-HRMS m/e calcd for C16H22O2S (M+) 278.1341, found 278.1347.

reactant | 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)propionic acid | 1.89 mmol, 500 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)SC | C15H20O2S
reactant | methanol | 8 mL | CO | CH4O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)propionic acid methyl ester | 481 mg, 91% | COC(C(CC1CCCC1)C1=CC=C(C=C1)SC)=O | C16H22O2S
